US06355653B1
c) 2-(2,4-Difluoro-phenyl)-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine
The title compound, MS m/e (%): 323 (M+, 100), 303 (60), was prepared in accordance with the general method of example 1 from 3-benzenesulfonylmethyl-5-(2,4-difluoro-phenyl)-1H-[1,2,4]triazole and (E)/(Z)-3-pyridin-4-yl-acrylonitrile.

reactant | 3-benzenesulfonylmethyl-5-(2,4-difluoro-phenyl)-1H-[1,2,4]triazole | C1(=CC=CC=C1)S(=O)(=O)CC1=NNC(=N1)C1=C(C=C(C=C1)F)F | C15H11F2N3O2S
reactant | (Z)-3-pyridin-4-yl-acrylonitrile | N1=CC=C(C=C1)\C=C/C#N | C8H6N2
product | 2-(2,4-Difluoro-phenyl)-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | FC1=C(C=CC(=C1)F)C1=NN2C(C=C(C=C2N)C2=CC=NC=C2)=N1 | C17H11F2N5
